US07598391B2
3-{2-[3-(1-Acetyl-piperidin-4-yl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
3-{2-[3-(1-Acetyl-piperidin-4-yl)-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester prepared as described in general procedures (A) and (B) using 1-[4-(4-methyl-cyclohexylamino)-piperidin-1-yl]-ethanone and 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound.

reactant | 3-{2-[3-(1-Acetyl-piperidin-4-yl)-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid ethyl ester | C(C)OC(CCSC1=CN=C(S1)NC(=O)N(C1CCC(CC1)C)C1CCN(CC1)C(C)=O)=O | C23H36N4O4S2
reactant | 1-[4-(4-methyl-cyclohexylamino)-piperidin-1-yl]-ethanone | CC1CCC(CC1)NC1CCN(CC1)C(C)=O | C14H26N2O
reactant | 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(CCSC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-(1-Acetyl-piperidin-4-yl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C(C)(=O)N1CCC(CC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C21H32N4O4S2
